US07205291B2
To a solution of [5-(2-methyl-1,3-dioxolan-2-yl)thien-2-yl]methanol prepared in the above step in THF (240 ml) was added 1N hydrochloric acid (48 ml) and the mixture was stirred for 2 hours at room temperature. Thereto was added sodium hydrogencarbonate (4.04 g) and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 1-[5-(hydroxymethyl)thien-2-yl]ethanone. This product was used in the next step without purification.

reactant | [5-(2-methyl-1,3-dioxolan-2-yl)thien-2-yl]methanol | CC1(OCCO1)C1=CC=C(S1)CO | C9H12O3S
reactant | hydrochloric acid | 1N, 48 ml | Cl | ClH
reactant | sodium hydrogencarbonate | 4.04 g | C(O)([O-])=O.[Na+]
solvent | THF | 240 ml | C1CCOC1 | C4H8O
product | 1-[5-(hydroxymethyl)thien-2-yl]ethanone | OCC1=CC=C(S1)C(C)=O | C7H8O2S
